US08252797B2
1,3-Dipropyl-8-{1-[2-(3-trifluoromethyl-phenyl)-cyclopropylmethyl]-1H-pyrazol-4-yl}-3,7-dihydro-purine-2,6-dione
A mixture of 1,3-dipropyl-8-{1-[2-(3-trifluoromethyl-phenyl)-cyclopropylmethyl]-1H-pyrazol-4-yl}-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.55 g, 0.087 mmol), 2 N HCl (2 ml), ethanol (3 ml) were heated at 85° C. for 3 hours. The mixture was cooled to 10-15° C. and solid material was separated. It was filtered off and washed with water (1 ml), diethyl ether (1 ml) to obtain the title compound (0.016 g, 37

reactant | 1,3-dipropyl-8-{1-[2-(3-trifluoromethyl-phenyl)-cyclopropylmethyl]-1H-pyrazol-4-yl}-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.087 mmol, 0.55 g | C(CC)N1C(N(C=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NN(C1)CC1C(C1)C1=CC(=CC=C1)C(F)(F)F)CCC)=O | C31H41F3N6O3Si
reactant | HCl | 2 N, 2 ml | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1,3-Dipropyl-8-{1-[2-(3-trifluoromethyl-phenyl)-cyclopropylmethyl]-1H-pyrazol-4-yl}-3,7-dihydro-purine-2,6-dione | C(CC)N1C(N(C=2N=C(NC2C1=O)C=1C=NN(C1)CC1C(C1)C1=CC(=CC=C1)C(F)(F)F)CCC)=O | C25H27F3N6O2
